US05023334
Preparation of diphenylmethyl (4-pyridinylmethylene)carbazate, Compound 86
To 24.11 gm (0.1 mole) of benzhydryl carbazate in 200 ml of warm absolute ethanol is added 10.66 gm (0.1 mole) of 4-pyridinecarboxaldehyde in 75 ml of absolute ethanol. The mixture is refluxed 7 hr and cooled. The solvent is removed in vacuo. Recrystallization from ethanol/Skellysolve B yields 26.03 gm (78.5%) of the title compound having a melting point of 159°-160° C.

reactant | benzhydryl carbazate | 0.1 mole, 24.11 gm | C(NN)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C14H14N2O2
reactant | 4-pyridinecarboxaldehyde | 0.1 mole, 10.66 gm | N1=CC=C(C=C1)C=O | C6H5NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | diphenylmethyl (4-pyridinylmethylene)carbazate | 26.03 gm, 78.5% | N1=CC=C(C=C1)C=NNC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17N3O2
